US05137890
6-Benzyl-4-(4-chlorophenyl)-2-ethylamino-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine
The title compound was prepared as described in Example 5 starting with 4-(4-chlorophenyl)-2-ethylamino- 5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine hydrochloride (1.1 g, 3.4 mmol) and benzyl bromide (0.4 mL, 3.4 mmol) to produce 0.35 g (27%) of 6-benzyl-4-(4- chlorophenyl)-2-ethylamino-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine. m.p. 138°-141° C. MS: 379 (MH+).

reactant | 4-(4-chlorophenyl)-2-ethylamino- 5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine hydrochloride | 3.4 mmol, 1.1 g | Cl.ClC1=CC=C(C=C1)C=1C2=C(N=C(N1)NCC)CCNC2
reactant | benzyl bromide | 3.4 mmol, 0.4 mL | C(C1=CC=CC=C1)Br | C7H7Br
product | 6-benzyl-4-(4- chlorophenyl)-2-ethylamino-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine | 0.35 g, 27% | C(C1=CC=CC=C1)N1CC2=C(N=C(N=C2C2=CC=C(C=C2)Cl)NCC)CC1 | C22H23ClN4
